US04478842
To a suspension of 10.0 g of 50% sodium hydride (dispersion in mineral oil) in freshly distilled dimethoxyethane (DME, 350 ml) stirred under nitrogen at 10° is added 53.6 ml of triethyl 2-phosphonopropionate in ca. 40 minutes. The mixture is stirred for 0.5 hour at 10° and for an additional 1.5 hours during which time the temperature is allowed to rise to room temperature. This solution is transferred under nitrogen by cannula to a 500 ml addition funnel and is added dropwise to a solution of terephthalaldehyde (33.53 g) in dry DME (475 ml) over a period of 1 hour at 22°-34°. After addition is complete the reaction mixture is stirred mechanically at room temperature for 2 hours, poured into 1L of water and extracted with 4×500 ml of ether. The ether extract is washed with a saturated sodium chloride solution (700 ml), dried over magnesium sulfate, filtered, and concentrated in vacuo to give a yellow oil which partially crystallizes on standing. This crude mixture is purified by suspending in petroleum ether and ethyl acetate (93:7). The filtrate, after removal of unreacted dialdehyde, is concentrated in vacuo to give a mixture which is further purified by high pressure liquid chromatography (using petroleum ether/ethyl acetate 93:7). There is obtained pure ethyl 4-formyl-α-methylcinnamate. A solution of the aldehyde (34.80 g) in 820 ml of absolute ethanol is treated with 12.11 g of granular sodium borohydride at room temperature under nitrogen. The resulting mixture is stirred at room temperature for 3 hours (or until all borohydride has dissolved) and then concentrated to ca. 200 ml volume, diluted with 400 ml of water, and extracted with 3×200 ml of ether. The ether extract is washed with 100 ml of water and brine (100 ml), is dried over magnesium sulfate, filtered, and the filtrate concentrated in vacuo to give ethyl 3 (p-hydroxymethylphenyl)-2-methylacrylate. To a solution of this product in 350 ml of methylene chloride is added at room temperature 11.53 ml of thionyl chloride dropwise over 25 minutes. The clear, colorless solution is stirred for 2 hours. The solution is washed with 100 ml of water, 200 ml of saturated sodium bicarbonate, 100 ml of water, and 100 ml of brine. The organic layer after drying and removal of solvent yields ethyl 3-(p-chloromethylphenyl)-2-methylacrylate, used without further purification.

reactant | sodium hydride | 10.0 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 53.6 ml | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | terephthalaldehyde | 33.53 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | water | O | H2O
solvent | DME | 475 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 350 ml | C(OC)COC | C4H10O2
product | ethyl 4-formyl-α-methylcinnamate | C(=O)C1=CC=C(C=C(C(=O)OCC)C)C=C1 | C13H14O3
